US07566720B2
9-[3-Phenylpropanoyl]-2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
A suspension of 0.2 g (0.87 mmol) of 2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in 5 ml of chloroform was treated with 26 mg (1.14 mmol) of sodium hydride (60% suspension in mineral oil) and the resulting mixture was stirred at room temperature for 15 min and then cooled to 0° C. 0.148 g (0.964 mmol) of 3-phenylpropionyl chloride was added and the reaction mixture was stirred at room temperature during 18 h.

reactant | 2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 0.87 mmol, 0.2 g | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCCN2 | C12H12N4O
reactant | sodium hydride | 1.14 mmol, 26 mg | [H-].[Na+]
reactant | 3-phenylpropionyl chloride | 0.964 mmol, 0.148 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-[3-Phenylpropanoyl]-2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | C1(=CC=CC=C1)CCC(=O)N1CCCN2C1=NC(=CC2=O)C2=CC=NC=C2 | C21H20N4O2
